US07390809B2
Step E: 7-[(3R)-3-[(tert-Butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoyl]-2-cyclopropyl-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine
A 54 mg portion of 2-cyclopropyl-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine hydrochloride was coupled to (3R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid essentially following the procedure outlined in Example 2, Step D. Purification by two sequential preparative TLC columns (silica gel, 10% methanol/dichloromethane) gave the title compound as a white solid.

reactant | 2-cyclopropyl-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine hydrochloride | Cl.C1(CC1)C1=NN2C(CNCC2)=N1
reactant | (3R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)F)F | C15H18F3NO4
product | 7-[(3R)-3-[(tert-Butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoyl]-2-cyclopropyl-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)N1CC=2N(CC1)N=C(N2)C2CC2)CC2=C(C=C(C(=C2)F)F)F | C23H28F3N5O3
